.SubCkt GGM188R71E224KA55 _net1 _net2
.param K01=2.2064e-07
.param M01=2.2727e+09
.param L02=1.7910e-10
.param M03=1.0412e-02
.param K04=2.5520e-05
.param M04=1.5955e+02
.param K05=4.1548e-05
.param M05=1.8745e+01
.param K06=2.9460e-05
.param M06=3.5718e+00
.param K07=2.6793e-05
.param M07=5.1737e-01
.param K08=2.3140e-05
.param M08=6.4188e-02
.param K09=1.7504e-05
.param M09=1.1901e-02
.param K10=2.4383e-05
.param M10=1.6698e-03
.param L11=2.0085e-11
.param M11=9.4649e-02
.param L12=1.4828e-10
.param M12=5.1761e-02
.param K13=1.3982e-06
.param L13=2.0129e-11
.param M13=1.0348e-02
.param K14=4.9193e-07
.param L14=2.7877e-11
.param M14=1.7474e-02
.param K15=1.0259e-11
.param L15=6.2210e-11
.param M15=6.3772e+00
.param K16=2.7631e-12
.param L16=6.3697e-11
.param M16=9.5094e+00
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
C10 _net0910 _net1011 'K10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net1516 'K15'
L15 _net1415 _net1516 'L15'
R15 _net1415 _net1516 'M15'
C16 _net1516 _net2 'K16'
L16 _net1516 _net2 'L16'
R16 _net1516 _net2 'M16'
.ends 

.SubCkt GGM188R71C105KA64 _net1 _net2
.param K01=6.9783e-07
.param M01=5.0000e+08
.param L02=1.9916e-10
.param M03=7.7515e-03
.param K04=1.2640e-05
.param M04=4.1970e+02
.param K05=2.0880e-05
.param M05=1.9542e+01
.param K06=1.9229e-05
.param M06=2.1150e+00
.param K07=1.6252e-05
.param M07=2.6366e-01
.param K08=1.2924e-05
.param M08=3.8814e-02
.param K09=2.2129e-05
.param M09=3.7802e-03
.param L10=3.1587e-11
.param M10=1.1576e-01
.param L11=1.8949e-10
.param M11=4.2863e-02
.param K12=2.5219e-06
.param L12=3.5563e-11
.param M12=1.1506e-02
.param K13=1.4391e-06
.param L13=3.0386e-11
.param M13=1.2994e-02
.param K14=3.3235e-12
.param L14=1.0160e-10
.param M14=2.6847e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net2 'K14'
L14 _net1314 _net2 'L14'
R14 _net1314 _net2 'M14'
.ends 

.SubCkt GGM188R71E105KA64 _net1 _net2
.param K01=6.9783e-07
.param M01=5.0000e+08
.param L02=1.9916e-10
.param M03=7.7515e-03
.param K04=1.2640e-05
.param M04=4.1970e+02
.param K05=2.0880e-05
.param M05=1.9542e+01
.param K06=1.9229e-05
.param M06=2.1150e+00
.param K07=1.6252e-05
.param M07=2.6366e-01
.param K08=1.2924e-05
.param M08=3.8814e-02
.param K09=2.2129e-05
.param M09=3.7802e-03
.param L10=3.1587e-11
.param M10=1.1576e-01
.param L11=1.8949e-10
.param M11=4.2863e-02
.param K12=2.5219e-06
.param L12=3.5563e-11
.param M12=1.1506e-02
.param K13=1.4391e-06
.param L13=3.0386e-11
.param M13=1.2994e-02
.param K14=3.3235e-12
.param L14=1.0160e-10
.param M14=2.6847e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net2 'K14'
L14 _net1314 _net2 'L14'
R14 _net1314 _net2 'M14'
.ends 

.SubCkt GGM188R70J225KE22 _net1 _net2
.param K01=1.5414e-06
.param M01=2.2727e+07
.param L02=1.8947e-10
.param M03=5.9724e-03
.param K04=1.8960e-05
.param M04=3.0680e+02
.param K05=4.3365e-05
.param M05=9.8790e+00
.param K06=3.8334e-05
.param M06=1.1136e+00
.param K07=3.3281e-05
.param M07=1.2255e-01
.param K08=2.6641e-05
.param M08=1.6635e-02
.param L09=3.3655e-11
.param M09=9.2044e-02
.param L10=2.0604e-10
.param M10=3.2483e-02
.param K11=7.9395e-06
.param L11=2.7242e-11
.param M11=4.6441e-03
.param K12=3.1836e-06
.param L12=3.6046e-11
.param M12=7.3712e-03
.param K13=3.5734e-12
.param L13=9.4496e-11
.param M13=2.1747e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
C11 _net1011 _net1112 'K11'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net2 'K13'
L13 _net1213 _net2 'L13'
R13 _net1213 _net2 'M13'
.ends 

.SubCkt GGM188R72A103KA37 _net1 _net2
.param K01=1.0097e-08
.param M01=1.0000e+10
.param L02=1.8622e-10
.param M03=7.0017e-02
.param K04=1.1031e-06
.param M04=3.6069e+03
.param K05=1.7502e-06
.param M05=2.7999e+02
.param K06=1.8604e-06
.param M06=3.9549e+01
.param K07=1.3915e-06
.param M07=1.0194e+01
.param K08=1.0117e-06
.param M08=1.3701e+00
.param K09=5.4947e-07
.param M09=3.2184e-01
.param K10=4.6344e-07
.param M10=4.9060e-02
.param L11=8.5116e-11
.param M11=2.5587e-01
.param K12=1.7472e-07
.param L12=5.9301e-12
.param M12=1.3928e-02
.param K13=1.3176e-08
.param L13=3.0760e-11
.param M13=6.9054e-02
.param K14=3.2870e-11
.param L14=1.3379e-10
.param M14=2.4210e+00
.param K15=2.5089e-12
.param L15=1.2516e-10
.param M15=1.3234e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
C10 _net0910 _net1011 'K10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt GGM188R72A223KA37 _net1 _net2
.param K01=2.3195e-08
.param M01=1.0000e+10
.param L02=2.0700e-10
.param M03=4.1695e-02
.param K04=2.8398e-06
.param M04=1.4011e+03
.param K05=4.6106e-06
.param M05=1.4337e+02
.param K06=3.6803e-06
.param M06=2.3252e+01
.param K07=3.2637e-06
.param M07=3.1486e+00
.param K08=2.9269e-06
.param M08=4.3193e-01
.param K09=1.8537e-06
.param M09=9.4995e-02
.param K10=1.0205e-06
.param M10=2.2437e-02
.param L11=1.0099e-10
.param M11=1.5863e-01
.param K12=1.7513e-07
.param L12=1.4464e-11
.param M12=2.0195e-02
.param K13=4.2370e-08
.param L13=2.6570e-11
.param M13=3.9730e-02
.param K14=7.8429e-11
.param L14=5.1675e-11
.param M14=7.6098e-01
.param K15=2.7728e-12
.param L15=1.1985e-10
.param M15=1.2714e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
C10 _net0910 _net1011 'K10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt GGM188R71E474KA64 _net1 _net2
.param K01=3.7636e-07
.param M01=1.0638e+09
.param L02=1.5331e-10
.param M03=8.7797e-03
.param K04=1.2817e-05
.param M04=1.5144e+02
.param K05=1.4179e-05
.param M05=1.3811e+01
.param K06=1.2502e-05
.param M06=1.7387e+00
.param K07=9.4030e-06
.param M07=2.6930e-01
.param K08=6.9844e-06
.param M08=3.9526e-02
.param K09=9.9463e-06
.param M09=5.1075e-03
.param L10=1.8681e-11
.param M10=9.8042e-02
.param L11=1.5649e-10
.param M11=5.2854e-02
.param K12=1.9967e-06
.param L12=2.2646e-11
.param M12=1.3143e-02
.param K13=5.3566e-07
.param L13=4.2330e-11
.param M13=2.0290e-02
.param K14=1.2528e-11
.param L14=3.9098e-11
.param M14=1.1985e+01
.param K15=2.9311e-12
.param L15=8.2822e-11
.param M15=1.9399e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt GGM188R71C474KA55 _net1 _net2
.param K01=4.4297e-07
.param M01=1.0638e+09
.param L02=1.7832e-10
.param M03=7.4415e-03
.param K04=5.0673e-05
.param M04=7.8521e+01
.param K05=6.0712e-05
.param M05=8.2222e+00
.param K06=5.5894e-05
.param M06=9.6602e-01
.param K07=5.9147e-05
.param M07=1.1101e-01
.param K08=3.8912e-05
.param M08=2.4084e-02
.param K09=2.8594e-05
.param M09=1.8553e-03
.param L10=2.2934e-11
.param M10=8.8473e-02
.param L11=1.5948e-10
.param M11=4.1672e-02
.param K12=3.4885e-06
.param L12=1.8344e-11
.param M12=6.9459e-03
.param K13=8.4859e-07
.param L13=3.8618e-11
.param M13=1.4068e-02
.param K14=1.3037e-11
.param L14=4.5986e-11
.param M14=6.2776e+00
.param K15=1.5849e-12
.param L15=1.0095e-10
.param M15=1.8709e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt GGM188R71H224KA64 _net1 _net2
.param K01=2.1817e-07
.param M01=2.2727e+09
.param L02=1.6995e-10
.param M03=8.2121e-03
.param K04=3.1120e-05
.param M04=1.2785e+02
.param K05=4.6443e-05
.param M05=1.8060e+01
.param K06=4.1248e-05
.param M06=2.5510e+00
.param K07=3.9491e-05
.param M07=3.5919e-01
.param K08=3.7738e-05
.param M08=4.2173e-02
.param K09=3.1192e-05
.param M09=8.6038e-03
.param K10=2.1640e-05
.param M10=9.6265e-04
.param L11=2.0248e-11
.param M11=8.4817e-02
.param L12=1.4169e-10
.param M12=5.3414e-02
.param K13=1.1372e-06
.param L13=2.5912e-11
.param M13=1.3841e-02
.param K14=4.6378e-07
.param L14=3.1132e-11
.param M14=2.1164e-02
.param K15=9.8440e-12
.param L15=6.0904e-11
.param M15=8.8451e+00
.param K16=2.5000e-12
.param L16=1.0000e-10
.param M16=2.3554e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
C10 _net0910 _net1011 'K10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net1516 'K15'
L15 _net1415 _net1516 'L15'
R15 _net1415 _net1516 'M15'
C16 _net1516 _net2 'K16'
L16 _net1516 _net2 'L16'
R16 _net1516 _net2 'M16'
.ends 
